US07176242B2
tert-butyl (1S,2R)-1-[3-(benzyloxy)-5-fluorobenzyl]-3-[(3-ethylbenzyl)amino]-2-hydroxypropylcarbamate
[2-(3-Benzyloxy-5-fluoro-phenyl)-1-oxiranyl-ethyl]-carbamic acid tert-butyl ester (3.33 g, 8.59 mmol) and m-ethyl benzylamine (2.32 g, 17.19 mmol) were dissolved in isopropyl alcohol (80 ml) and brought to reflux for 2 h. Reaction mixture was then concentrated in vacuo to remove isopropyl alcohol. Dissolved yellow liquid in ethyl acetate (30 ml), then washed with 1N HCl (3×100 ml). Aqueous layers were combined then extracted with ethyl acetate (2×100 ml). Organic layers were washed with 10% sodium bicarbonate (aq., 3×100 ml), followed by a brine wash. Organic layer was dried over sodium sulfate, filtered, then concentrated in vacuo, yielding the product (4.31 g). (ES+: 523.9)

reactant | [2-(3-Benzyloxy-5-fluoro-phenyl)-1-oxiranyl-ethyl]-carbamic acid tert-butyl ester | 8.59 mmol, 3.33 g | C(C)(C)(C)OC(NC(CC1=CC(=CC(=C1)F)OCC1=CC=CC=C1)C1OC1)=O | C22H26FNO4
reactant | m-ethyl benzylamine | 17.19 mmol, 2.32 g | C(C)C=1C=C(CN)C=CC1 | C9H13N
solvent | isopropyl alcohol | 80 ml | C(C)(C)O | C3H8O
product | tert-butyl (1S,2R)-1-[3-(benzyloxy)-5-fluorobenzyl]-3-[(3-ethylbenzyl)amino]-2-hydroxypropylcarbamate | 4.31 g | C(C1=CC=CC=C1)OC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)NC(OC(C)(C)C)=O)C=C(C1)F | C31H39FN2O4
